US07807676B2
To a solution of 1-(4-methoxy-7-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.207 g, 0.414 mmol) in DMF (2 mL) was added NaH (0.083 g, 2.072 mmol). The mixture was stirred for 5 minutes at rt and methyl bromoacetate (0.047 mL, 0.497 mmol) was added. The mixture was stirred at rt for 30 minutes. LC/MS showed starting material still present, so an additional 0.05 mL of methyl bromoacetate was added. The mixture was stirred for 1 h at rt, and was quenched with water. The solvent was removed under reduced pressure, and the residue was partitioned with water and dichloromethane. The aqueous layer was acidified to pH=1 using 0.1N HCl. The solids that formed were collected by filtration, dissolved in DMF, and were purified by prep HPLC. The aqueous layer containing the remainder of the material was concentrated under reduced pressure, and was dissolved in DMF. The DMF solution was filtered through a plug of celite to remove solids, and the DMF solution was purified by prep HPLC. A second prep HPLC run was used to purify the product. 2-(7-(1-(carboxymethyl)-1H-pyrazol-3-yl)-4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-1-yl)acetic acid was isolated as a light-yellow solid (0.032 g, 0.052 mmol, 12.5% yield). 1H NMR (500 MHz, DMSO-D6) δ ppm 8.65-8.69 (m, 1H) 8.50 (s, 1H) 8.13-8.19 (m, 2H) 7.92 (s, 1H) 7.85 (d, J=7.93 Hz, 1H) 7.64 (dd, J=7.63, 4.88 Hz, 1H) 6.65 (s, 1H) 5.17 (s, 2H) 5.05 (s, 2H) 4.01 (s, 3H) 3.72 (s, 2H) 3.45 (dd, J=11.60, 3.05 Hz, 4H) 3.29 (d, J=3.36 Hz, 2H). LCMS: m/e 616.34 (M+H)+, ret time 1.565 min (method 4). 2-(3-(4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazol-1-yl)acetic acid was isolated as an off-white solid (0.132 g, 0.237 mmol, 52.1% yield). 1H NMR (500 MHz, DMSO-D6) δ ppm 1H NMR (500 MHz, DMSO-D6) d ppm 12.37 (s, 1H) 8.65-8.68 (m, 1H) 8.32 (s, 1H) 8.13-8.18 (m, 1H) 8.07 (s, 1H) 7.96 (d, J=2.44 Hz, 1H) 7.85 (d, J=7.93 Hz, 1H) 7.64 (dd, J=7.48, 4.73 Hz, 1H) 7.03 (d, J=1.83 Hz, 1H) 5.17-5.20 (m, 2H) 4.01 (s, 3H) 3.70-3.75 (m, 2H) 3.40-3.49 (m, 4H) 3.24-3.29 (m, 2H). LCMS: m/e 558.19 (M+H)+, ret time 0.955 min (method 3).

reactant | 1-(4-methoxy-7-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.414 mmol, 0.207 g | COC1=C2C(=C(N=C1)C1=NNC=C1)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O | C23H21N11O3
reactant | NaH | 2.072 mmol, 0.083 g | [H-].[Na+]
reactant | methyl bromoacetate | 0.497 mmol, 0.047 mL | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 0.05 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(7-(1-(carboxymethyl)-1H-pyrazol-3-yl)-4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-1-yl)acetic acid | C(=O)(O)CN1N=C(C=C1)C=1N=CC(=C2C1N(C=C2C(C(N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)=O)CC(=O)O)OC | C27H25N11O7
